US06699871B2
To a solution of 2 g (8.44 mmol) of 4-bromo-2,5-difluorobenzoic acid (prepared according to the procedure of Ishikawa et al., Kogyo Kagaku Zasshi, pg 972-979, 1970) in 20 mL of tetrahydrofuran was added 40 mL of a 1M solution of borane-tetrahydrofuran complex. The solution was heated under reflux for 64 h, cooled to ambient temperature and 100 mL of methanol was added. The reaction was then heated for a further 2 h, cooled and concentrated in vacuo. Purification by flash chromatography (silica gel, 9:1 hexane:ethyl acetate) afforded 1.6 g of 4-bromo-2,5-difluorobenzyl alcohol. To a solution of 1.3 g (5.6 mmol) of 4-bromo-2,5-difluorobenzyl alcohol in 20 mL of dichloromethane at 0° C. was added 2.27 g (6.7 mmol) of carbon tetrabromide and 1.8 g (6.7 mmol) of triphenylphosphine. The reaction was stirred for 2 h at this temperature, the solvent was removed in vacuo and the residue stirred with 100 mL of diethyl ether. The solution was filtered, concentrated in vacuo, and purified by flash chromatography (silica gel, 9:1 hexane:ethyl acetate) to afford 1.5 g of the title compound.

reactant | 4-bromo-2,5-difluorobenzoic acid | 8.44 mmol, 2 g | BrC1=CC(=C(C(=O)O)C=C1F)F | C7H3BrF2O2
reactant | methanol | 100 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-bromo-2,5-difluorobenzyl alcohol | 1.6 g | BrC1=CC(=C(CO)C=C1F)F | C7H5BrF2O
